US07368578B2
Ethyl 1-benzyl-3-[(3-bromo-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carboxylate (1.20 g), phenylboronic acid (0.37 g), tetrakis(triphenylphosphine)palladium (0.12 g), 2M aqueous sodium carbonate solution (3 mL), ethanol (5 mL) and toluene (20 mL) were stirred under an argon atmosphere while heating under reflux for 24 hrs. Ethyl acetate was added to the reaction mixture. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-phenylbenzyl)oxy]-1H-pyrazole-4-carboxylate as colorless crystals (0.91 g, 77%) from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 134-135° C.

reactant | Ethyl 1-benzyl-3-[(3-bromo-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carboxylate | 1.20 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)Br | C29H26BrN3O6
reactant | phenylboronic acid | 0.37 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-phenylbenzyl)oxy]-1H-pyrazole-4-carboxylate | 0.91 g, 77% | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)C1=CC=CC=C1 | C35H31N3O6
